US08703922B2
Under a nitrogen atmosphere, 17.4 mL (202 mmol) of oxalyl chloride was dissolved in methylene chloride (300 mL). 36 mL (0.51 mol) of dimethyl sulfoxide was slowly added dropwise to the mixture at −78° C. After the mixture was stirred for 15 min, 50 g (0.17 mol) of phytol was added, followed by stirring for 1 hour at the same temperature. After addition of 94 mL (0.68 mol) of triethylamine, the reaction mixture was allowed to warm up to room temperature. The mixture was concentrated with methylene chloride, and the residue was diluted with diethylether, and the solution was washed saturated brine, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated to obtain 3,7,11,15-tetramethylhexadec-2-en-1-al as a crude product.

reactant | oxalyl chloride | 202 mmol, 17.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.51 mol, 36 mL | CS(=O)C | C2H6OS
reactant | phytol | 0.17 mol, 50 g | CC(C)CCC[C@@H](C)CCC[C@@H](C)CCC\C(\C)=C\CO | C20H40O
reactant | triethylamine | 0.68 mol, 94 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 3,7,11,15-tetramethylhexadec-2-en-1-al | CC(=CC=O)CCCC(CCCC(CCCC(C)C)C)C | C20H38O
